US08710065B2
2-(cyclohexylmethyl)-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline
Sodium cyanotrihydroborate (0.600 g, 9.55 mmol) was added to a solution of 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (0.600 g, 2.91 mmol), acetic acid (0.210 mL, 3.66 mmol) and cyclohexanecarbaldehyde (0.4 g, 3.57 mmol) in methanol (40 mL). The reaction mixture was stirred at 35° C. for 16 hours. The reaction was neutralized with saturated sodium bicarbonate solution, and the mixture was concentrated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified with silica gel column chromatography (3% ethyl acetate/petroleum ether) to provide the title compound.

reactant | Sodium cyanotrihydroborate | 9.55 mmol, 0.600 g | [B-]C#N.[Na+]
reactant | 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 2.91 mmol, 0.600 g | CC1(CNCC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | acetic acid | 3.66 mmol, 0.210 mL | C(C)(=O)O | C2H4O2
reactant | cyclohexanecarbaldehyde | 3.57 mmol, 0.4 g | C1(CCCCC1)C=O | C7H12O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 2-(cyclohexylmethyl)-4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | C1(CCCCC1)CN1CC2=CC(=CC=C2C(C1)(C)C)[N+](=O)[O-] | C18H26N2O2
